### PR TITLE
Fix `positive_eq_hull_preimage_singleton` and move `homogenize_top`

### PR DESCRIPTION
**Pull request by mo271**
The equality `f.positive = hull R (f ⁻¹' {c})` was false as stated: it fails for `c < 0` (the hull lies on the nonpositive side of `f`) and over semirings without division (`R = ℕ`, `f = id`, `c = 2`). It is now stated with `0 < c` over linearly ordered fields and proven. The inequality direction `hull_le_positive_of_subset_preimage_singleton` keeps its original generality with `0 < c` and a direct proof.

`homogenize_top` relied on the false equality and is itself false over general ordered rings (`R = ℤ[ε]`); it moves to the `Field` section, now proven.

### CODE REVIEW

**Comment by mo271** [comment]
Not sure how the false statement became part of that file, likely a botched generalisation or something?

File: Polyhedral/Mathlib/Geometry/Convex/Cone/Pointed/LinearMap.lean [hunk 1]
```diff
@@ -102,18 +102,40 @@ lemma positive_inf_ker {f : M →ₗ[R] R} : f.positive ⊓ f.ker = ⊥ := by
...
+of `f`. The assumption `0 < c` cannot be weakened to `c ≠ 0`: for `c < 0` the hull lies in the
+nonpositive cone of `f`. See `positive_eq_hull_preimage_singleton` for an equality version over
+linearly ordered fields. -/
 lemma hull_le_positive_of_subset_preimage_singleton {f : M →ₗ[R] R} {s : Set M} {c : R}
-    (hc : c ≠ 0) (hs : s ⊆ f ⁻¹' {c}) :
-    PointedCone.hull R s ≤ f.positive := by
-  rw [positive_eq_hull_preimage_singleton f c hc]
-  exact Submodule.span_mono hs
+    (hc : 0 < c) (hs : s ⊆ f ⁻¹' {c}) :
+    PointedCone.hull R s ≤ f.positive :=
```
Comment (YaelDillies) [inline Polyhedral/Mathlib/Geometry/Convex/Cone/Pointed/LinearMap.lean:119]: Is `ker f` not in `f.positive`?
```suggestion
    (hc : 0 \le c) (hs : s ⊆ f ⁻¹' {c}) :
    PointedCone.hull R s ≤ f.positive :=
```

File: Polyhedral/Mathlib/Geometry/Convex/ConvexSpace/Set/Homogenization.lean [hunk 2]
```diff
@@ -154,6 +153,15 @@ variable [IsModuleConvexSpace R W]
 
 variable [hom : Affine.IsHomogenization R A W]
 
+omit [IsModuleConvexSpace R W] in
+/-- The homogenization of the full affine space is the positive cone of the weight functional. -/
+lemma homogenize_top : homogenize W (⊤ : ConvexSet R A) = hom.weight.positive := by
+  rw [homogenize, LinearMap.positive_eq_hull_preimage_singleton hom.weight one_pos,
+    ← hom.ofPoint_range_eq_preimage_weight_one]
+  congr
+  ext x
```
Comment (YaelDillies) [inline Polyhedral/Mathlib/Geometry/Convex/ConvexSpace/Set/Homogenization.lean]:
```suggestion
  congr! with x
```
might work

File: Polyhedral/Mathlib/Geometry/Convex/Cone/Pointed/LinearMap.lean (hunk 1 above)
Comment (mo271) [reply Polyhedral/Mathlib/Geometry/Convex/Cone/Pointed/LinearMap.lean:119]: no, `ker f ≤ f.nonneg` but `f.positive ⊓ f.ker = ⊥`, since positive is the strict cone. With `c = 0` the hull of `{(0,1)}` under `fst` is a counterexample, so `0 < c` is needed here. I can add the nonneg version with `0 ≤ c` if you want.

Comment (YaelDillies) [reply Polyhedral/Mathlib/Geometry/Convex/Cone/Pointed/LinearMap.lean:119]: Yes, would be nice

**Review by YaelDillies — APPROVED** [review]

File: Polyhedral/Mathlib/Geometry/Convex/Cone/Pointed/LinearMap.lean (hunk 1 above)
Comment (mo271) [reply Polyhedral/Mathlib/Geometry/Convex/Cone/Pointed/LinearMap.lean:119]: added `hull_le_nonneg_of_subset_preimage_singleton` with `0 ≤ c`

**Review by YaelDillies — APPROVED** [review]
LGTM!

**Comment by mo271** [comment]
@martinwintermath

File: Polyhedral/Mathlib/Geometry/Convex/Cone/Pointed/LinearMap.lean [hunk 3]
```diff
@@ -102,18 +109,41 @@ lemma positive_inf_ker {f : M →ₗ[R] R} : f.positive ⊓ f.ker = ⊥ := by
...
+`0 ≤ c` and `positive_eq_hull_preimage_singleton` for an equality version over linearly ordered
+fields. -/
 lemma hull_le_positive_of_subset_preimage_singleton {f : M →ₗ[R] R} {s : Set M} {c : R}
-    (hc : c ≠ 0) (hs : s ⊆ f ⁻¹' {c}) :
-    PointedCone.hull R s ≤ f.positive := by
-  rw [positive_eq_hull_preimage_singleton f c hc]
-  exact Submodule.span_mono hs
+    (hc : 0 < c) (hs : s ⊆ f ⁻¹' {c}) :
+    PointedCone.hull R s ≤ f.positive :=
+  Submodule.span_le.mpr fun x hx => mem_positive.mpr fun _ => (hs hx : f x = c) ▸ hc
```
Comment (vlad902) [inline Polyhedral/Mathlib/Geometry/Convex/Cone/Pointed/LinearMap.lean]:
```suggestion
  Submodule.span_le.mpr fun x hx ↦ mem_positive.mpr fun _ ↦ by rwa [hs hx]
```
